US07081531B2
To a solution of 8-aza-bicyclo[3.2.1]octan-3-one hydrochloride (4.5 g, 0.028 mol) in 100 mL of EtOH was added carbonic acid di-tert-butyl ester (12 g, 2 eq.) and 11 mL of TEA. The resulting mixture was heated at 60° C. for 3 h. The volatile fraction was removed and the residue was partitioned between EtOAc and water. The EtOAc layer was washed with saturated sodium chloride, dried over Na2SO4 and concentrated. Silica gel column purification with 20% EtOAc in hexane gave 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (6.25 g).

reactant | 8-aza-bicyclo[3.2.1]octan-3-one hydrochloride | 0.028 mol, 4.5 g | Cl.C12CC(CC(CC1)N2)=O
reactant | carbonic acid di-tert-butyl ester | 12 g, 2 eq. | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 6.25 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
